US05589474
(c) 3-Trifluoromethyl-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione
Phosphorus pentasulphide (2.25 g) was added to a solution of 3-trifluoromethyl-9,10-dihydrodibenzo [b,f][1,4]thiazepin-11-one (2 g, 6.8 mmol) in pyridine (30 ml) and the mixture heated under reflux for 6.5 hr. The mixture was allowed to cool and then poured into warm water (100 ml) with stirring. Filtration of the cooled mixture and recrystallisation from ethanol gave the title compound as yellow needles (1.68 g, m.p. 236°-239° C., Rf 0.58, hexane/EtOAc 2:1).

reactant | Phosphorus pentasulphide | 2.25 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 3-trifluoromethyl-9,10-dihydrodibenzo [b,f][1,4]thiazepin-11-one | 6.8 mmol, 2 g | FC(C1=CC2=C(C(NC3=C(S2)C=CCC3)=O)C=C1)(F)F | C14H10F3NOS
reactant | water | 100 ml | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-Trifluoromethyl-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione | 1.68 g | FC(C1=CC2=C(C(NC3=C(S2)C=CC=C3)=S)C=C1)(F)F | C14H8F3NS2
